US08440693B2
Intermediate 87.1: 4-[(S)-1-(4-Bromo-phenyl)-ethyl]-thiomorpholine 1,1-dioxide
A solution of (S)-1-(4-bromophenyl)ethanamine (0.144 ml, 1.0 mmol) and vinylsulfonylethene (0.100 ml, 1.0 mmol) in EtOH (4.0 ml) was heated at 100° C. and stirred for 3 h. The reaction mixture was cooled to RT and evaporated to dryness. The resulting crude material was purified by Combi-Flash Companion™ (Isco Inc.) column chromatography (gradient elution, heptane AcOEt 95:5 to 4:6) to yield the title compound (256 mg, 0.804 mmol, 80% yield) as a colorless oil which crystallized on standing into a colorless solid. TLC: RF=0.40 (heptane AcOEt 1:1); HPLC: BtRet=1.29 min; LC-MS: m/z 320.2 [M+H]+; 1H NMR (400 MHz, CDCl3): 1.39 (d, J=6.8, 3H), 2.92-3.09 (m, 8H), 3.76 (q, J=6.8, 1H), 7.19-7.26 (m, 2H), 7.45-7.53 (m, 2H).

reactant | (S)-1-(4-bromophenyl)ethanamine | 1.0 mmol, 0.144 ml | BrC1=CC=C(C=C1)[C@H](C)N | C8H10BrN
reactant | vinylsulfonylethene | 1.0 mmol, 0.100 ml | C(=C)S(=O)(=O)C=C | C4H6O2S
solvent | EtOH | 4.0 ml | CCO | C2H6O
product | 4-[(S)-1-(4-Bromo-phenyl)-ethyl]-thiomorpholine 1,1-dioxide | 0.804 mmol, 256 mg, 80% yield | BrC1=CC=C(C=C1)[C@H](C)N1CCS(CC1)(=O)=O | C12H16BrNO2S
